US09382238B2
To a solution of 4-methyl-1-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole (560 mg, 2.065 mmol) in MeOH (10 mL) was added Pd/C (21.98 mg, 0.206 mmol) in one portion. Then the mixture was stirred under H2 for 12 h. LCMS analysis showed the starting material disappeared. The suspension was filtered through a pad of Celite® and the filter cake was washed with MeOH (2 mL). The combined filtrates were concentrated to dryness to give crude product, which was purified by preparative TLC (PE/EA=5/1, Rf=0.25) to afford pure product 3-(4-methyl-1H-pyrazol-1-yl)-5-(trifluoromethyl)aniline (280 mg, 1.158 mmol, 56.1% yield). 1H NMR (400 MHz, CD3OD): δ 7.96 (s, 1H), 7.52 (s, 1H), 7.15 (s, 2H), 6.82 (s, 1H), 2.15 (s, 3H). ES-LCMS: m/z 242.1 (M+H).

reactant | 4-methyl-1-(3-nitro-5-(trifluoromethyl)phenyl)-1H-pyrazole | 2.065 mmol, 560 mg | CC=1C=NN(C1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C11H8F3N3O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.206 mmol, 21.98 mg | [Pd] | Pd
product | 3-(4-methyl-1H-pyrazol-1-yl)-5-(trifluoromethyl)aniline | 1.158 mmol, 280 mg, 56.1% yield | CC=1C=NN(C1)C=1C=C(N)C=C(C1)C(F)(F)F | C11H10F3N3
